US09056874B2
Resolution of the enantiomers of 2-(1-methoxy-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)benzo[d]oxazole-5-carbonitrile was achieved by chiral SFC using a CHIRALPAK® AD-H column with 60% EtOH (0.2% DEA) in CO2 to give (+)-2-(1-hydroxy-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)benzo[d]oxazole-5-carbonitrile (tr=6.31 min) and (−)-2-(1-hydroxy-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)benzo[d]oxazole-5-carbonitrile (tr=11.01 min).

reactant | 2-(1-methoxy-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)benzo[d]oxazole-5-carbonitrile | COC(C)(C1=C2C=CNC2=C(C=C1OC)C)C=1OC2=C(N1)C=C(C=C2)C#N | C21H19N3O3
reactant | EtOH | CCO | C2H6O
solvent | CO2 | C(=O)=O | CO2
product | (−)-2-(1-hydroxy-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)benzo[d]oxazole-5-carbonitrile | OC(C)(C1=C2C=CNC2=C(C=C1OC)C)C=1OC2=C(N1)C=C(C=C2)C#N | C20H17N3O3
